US06476055B1
A solution of 4-imino-5-methyl-5-phenyl-3-phenylaminothiazolidine-2-thione (0.31 g) and hydroxylamine hydrochloride (0.16 g) in methanol (15 ml) was refluxed for 6 hrs followed by solvent evaporation. The residue was purified by column chromatography (ethyl acetate-n-hexane, 1/3) to yield 4-hydroxyimino-5-methyl-5-phenyl-3-phenylamino-thiazolidine-2-thione (0.17 g) having a melting point of 83-84° C.

reactant | 4-imino-5-methyl-5-phenyl-3-phenylaminothiazolidine-2-thione | 0.31 g | N=C1N(C(SC1(C1=CC=CC=C1)C)=S)NC1=CC=CC=C1 | C16H15N3S2
reactant | hydroxylamine hydrochloride | 0.16 g | Cl.NO
solvent | methanol | 15 ml | CO | CH4O
product | 4-hydroxyimino-5-methyl-5-phenyl-3-phenylamino-thiazolidine-2-thione | 0.17 g | ON=C1N(C(SC1(C1=CC=CC=C1)C)=S)NC1=CC=CC=C1 | C16H15N3OS2
